US08748440B2
In a similar manner as described above in Example 7, 2-(1-methylaminoethyl)-3-phenyl-3H-quinazolin-4-one, prepared as described above in Paragraph A, was condensed with benzenesulfonyl chloride to yield N-methyl-N-[1-(4-oxo-3-phenyl-3,4-dihydroquinazolin-2-yl)ethyl]benzenesulfonamide; MS (ESI) 420 (MH+).

reactant | 2-(1-methylaminoethyl)-3-phenyl-3H-quinazolin-4-one | CNC(C)C1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C17H17N3O
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-methyl-N-[1-(4-oxo-3-phenyl-3,4-dihydroquinazolin-2-yl)ethyl]benzenesulfonamide | CN(S(=O)(=O)C1=CC=CC=C1)C(C)C1=NC2=CC=CC=C2C(N1C1=CC=CC=C1)=O | C23H21N3O3S
